US08461194B2
To a suspension of 1-(4-chloro-2-methylbenzyl)-1H-indazole-3-carboxylic acid, prepared as described in J. Med. Chem. (1976) 19, 778-783, (120 g; 0.4 mol) in absolute ethanol (850 ml), stirred at room temperature, was cautiously added concentrated H2SO4 (15 ml). The mixture was then refluxed for 9 hours. The reaction was then completed by cooling the mixture to room temperature. The solid thus formed was filtered off under cold conditions (10° C.) and washed thoroughly on the filter with water. 126 g of ethyl 1-(4-chloro-2-methylbenzyl)-1H-indazole-3-carboxylate were thus obtained, and were used in the following reaction without further purification.

reactant | 1-(4-chloro-2-methylbenzyl)-1H-indazole-3-carboxylic acid | ClC1=CC(=C(CN2N=C(C3=CC=CC=C23)C(=O)O)C=C1)C | C16H13ClN2O2
reactant | H2SO4 | 15 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 850 ml | C(C)O | C2H6O
product | ethyl 1-(4-chloro-2-methylbenzyl)-1H-indazole-3-carboxylate | 126 g | ClC1=CC(=C(CN2N=C(C3=CC=CC=C23)C(=O)OCC)C=C1)C | C18H17ClN2O2
